US08378118B2
Step-II: Preparation of 5-Methyl-indan-4-ol
To a solution of 4-Hydroxy-indan-5-carbaldehyde (5 gm) in Methanol (80 ml), 10% wt/wt Palladium-charcoal (500 mg) was added. The hydrogenation was carried out for 8 hours at 55-60° C. in an autoclave at 240-250 psi using Hydrogen gas. The reaction mixture was filtered through hyflow bed and distilled under vacuum to give 4.0 gm of title compound as a solid.

reactant | 4-Hydroxy-indan-5-carbaldehyde | 5 gm | OC1=C2CCCC2=CC=C1C=O | C10H10O2
reactant | Hydrogen | [H][H] | H2
solvent | Methanol | 80 ml | CO | CH4O
catalyst | Palladium-charcoal | 500 mg | [Pd] | Pd
product | 5-Methyl-indan-4-ol | 4.0 gm, Yield: 88.0% | CC1=C(C=2CCCC2C=C1)O | C10H12O
